US05614520
Ethyl 2-(4-chloro-3-nitrophenyl)-4-methyl-5-thiazolecarboxylate in diethylamine was heated in the same manner as that of Example 35 and hydrolyzed to give 2-(4-N,N-diethylamino)-3-nitrophenyl)-4-methyl-5-thiazolecarboxylic acid (yield: 56%).

reactant | Ethyl 2-(4-chloro-3-nitrophenyl)-4-methyl-5-thiazolecarboxylate | ClC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC)[N+](=O)[O-] | C13H11ClN2O4S
solvent | diethylamine | C(C)NCC | C4H11N
product | 4-methyl-5-thiazolecarboxylic acid | yield: 56% | CC=1N=CSC1C(=O)O | C5H5NO2S
